US07618978B2
(2R, 5R)-2-{(4S, 5S)-3-Acetyl-4-[3,5-difluoro-benzyl]-2,2-dimethyl-oxazolidin-5-yl}-5-(3-methyl-butoxy)-piperidine-1-carboxylic acid tert-butyl ester
Add (2R, 5R)-2-{(4S, 5S)-3-Acetyl-4-[3,5-difluoro-benzyl]-2,2-dimethyl-oxazolidin-5-yl}-5-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.06 g, 0.13 mmol) in 1.0 mL dimethylformamide to 60% sodium hydride (0.006 g, 0.15 mmol) in 0.5 mL dimethylformamide at room temperature and stir for 15 minutes. Add 1-bromo-3-methylbutane (0.023 mL, 0.19 mmol) and stir at room temperature overnight. Add 60% sodium hydride (0.006 g, 0.15 mmol) and 1-bromo-3-methylbutane (0.023 mL, 0.19 mmol) and stir for 4 h at room temperature. Quench with water and extract with diethyl ether, dry the organic layer over magnesium sulfate and concentrate. Subject the residue to silica gel chromatography, eluting with 100% dichloromethane to 90:10 dichloromethane: ethyl acetate to provide the desired compound (0.05 g, 75%).

reactant | (2R, 5R)-2-{(4S, 5S)-3-Acetyl-4-[3,5-difluoro-benzyl]-2,2-dimethyl-oxazolidin-5-yl}-5-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.13 mmol, 0.06 g | C(C)(C)(C)OC(=O)N1[C@H](CC[C@H](C1)O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C24H34F2N2O5
reactant | sodium hydride | 0.15 mmol, 0.006 g | [H-].[Na+]
reactant | 1-bromo-3-methylbutane | 0.19 mmol, 0.023 mL | BrCCC(C)C | C5H11Br
reactant | sodium hydride | 0.15 mmol, 0.006 g | [H-].[Na+]
reactant | 1-bromo-3-methylbutane | 0.19 mmol, 0.023 mL | BrCCC(C)C | C5H11Br
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | (2R, 5R)-2-{(4S, 5S)-3-Acetyl-4-[3,5-difluoro-benzyl]-2,2-dimethyl-oxazolidin-5-yl}-5-(3-methyl-butoxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.05 g, 75% | C(C)(C)(C)OC(=O)N1[C@H](CC[C@H](C1)OCCC(C)C)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C29H44F2N2O5
